data/mechanism_extracts/JACS/10.1021_jacs.3c07146.json
{"doi": "10.1021_jacs.3c07146", "journal": "JACS", "is_review": false, "rxn_class_summary": "Photoelectrocatalytic asymmetric heteroarylcyanation of aryl alkenes with thiophenes and TMSCN via dual acridinium photoredox / chiral copper catalysis under anodic oxidation.", "mechanism_family": ["photoredox_combined", "radical_polar_crossover", "electrocatalysis_inner_sphere", "paired_electrolysis"], "electrochemical_role": "Anode regenerates the ground-state acridinium photocatalyst from the acridine radical (Mes-Acr-Ph•) and re-oxidizes Cu(I) to Cu(II); cathode reduces protons to H2.", "key_intermediates": [{"name": "excited-state acridinium [Mes-Acr-Ph]+*", "smiles": null, "role": "reactive"}, {"name": "thiophene radical cation (I)", "smiles": null, "role": "reactive"}, {"name": "acridine radical [Mes-Acr-Ph]•", "smiles": null, "role": "transient"}, {"name": "distal benzylic/heteroarene-stabilized radical cation (II) from alkene addition", "smiles": null, "role": "reactive"}, {"name": "benzylic radical III after deprotonation", "smiles": null, "role": "reactive"}, {"name": "Cu(II)(L1)(CN)2 complex", "smiles": null, "role": "resting_state"}, {"name": "Cu(III)(L1)(CN)2-alkyl complex IV", "smiles": null, "role": "reactive"}, {"name": "Cu(I)(L1)(CN)", "smiles": null, "role": "transient"}], "electron_flow": "Photoexcited [Mes-Acr-Ph]+* oxidizes the thiophene to a radical cation, which adds to the aryl alkene at the α-position to form a distal radical cation; deprotonation gives a benzylic radical that is captured by chiral Cu(II)(CN)2 to form a Cu(III) intermediate that undergoes enantiodetermining reductive elimination to deliver the chiral nitrile. The anode reoxidizes [Mes-Acr-Ph]• and Cu(I) back to their active states while the cathode evolves H2.", "rate_determining_step": "Enantiodetermining reductive elimination from Cu(III)(CN)2-alkyl complex IV (stereochemistry-determining step; not explicitly assigned as rate-limiting)", "probe_reagents": [{"name": "allyl sulfone 51 (methyl 2-((phenylsulfonyl)methyl)acrylate)", "smiles": "C=C(C(=O)OC)CS(=O)(=O)c1ccccc1", "purpose": "radical_trap", "observation": "Benzylic allylation product 52 isolated in 17% yield alongside 24% of 3, confirming a benzylic radical intermediate."}, {"name": "electron-rich aryl alkene 47 (2-methoxystyrene)", "smiles": "COc1ccccc1C=C", "purpose": "redox_probe", "observation": "Alkene 47 (Ep/2ox = 1.46 V) did not react with thiophene 2 (1.70 V) and decomposed; pairing 47 with more electron-rich thiophene 49 restored reactivity, supporting that the heteroarene must be more easily oxidized than the alkene."}, {"name": "2-acetylthiophene", "smiles": "CC(=O)c1ccc(s1)", "purpose": "redox_probe", "observation": "Higher oxidation potential (2.19 V) than alkene 1 (2.00 V); failed to yield product 12, consistent with required photooxidation of the heteroarene."}, {"name": "thiophene 2 and alkene 1 (Stern-Volmer)", "smiles": null, "purpose": "other", "observation": "Both quench [Mes-Acr-Ph]+*, but thiophene 2 quenches much more efficiently, indicating heteroarene is the principal SET partner."}], "evidence_types_used": ["intermediate_trap_other", "redox_probe", "cyclic_voltammetry", "UV_vis"], "evidence_strength": "medium", "notes": "An alternative initial addition mode (II') in which the thiophene radical cation adds at the β-position of the alkene is considered but disfavored because pathway via II benefits from more extensive cation delocalization; for carbonyl-substituted alkenes (compounds 17-19), regiochemistry inverts to position (b) to avoid placing the cation adjacent to the carbonyl. Stern-Volmer data show alkene also quenches the excited state but less efficiently, so a minor alkene-first oxidation pathway cannot be strictly excluded."}
